US04590201
A suspension of 2-cyanoacetamide (149 mg, 1.77 mmol) in ethanol (5 ml) was refluxed 20 minutes with sodium methoxide (93 mg, 1.72 mmol), cooled slightly, treated with 4-(4-chlorobenzoyl)-3,5-dichlorobenzyl azide (450 mg, 1.32 mmol), and refluxed 1 hour. The mixture was cooled, evaporated under vacuum, and chromatographed on a column of silica gel (50 g), eluted with 19:1 (v/v) dichloromethane-methanol to provide 231 mg (41%) of 5-amino-1(4-[4-chlorobenzoyl]-3,5-dichlorobenzyl)-1,2,3-triazole-4-carboxamide, m.p. 198.5°-200° C.

reactant | 2-cyanoacetamide | 1.77 mmol, 149 mg | C(#N)CC(=O)N | C3H4N2O
reactant | sodium methoxide | 1.72 mmol, 93 mg | C[O-].[Na+]
reactant | 4-(4-chlorobenzoyl)-3,5-dichlorobenzyl azide | 1.32 mmol, 450 mg | ClC1=CC=C(C(=O)C2=C(C=C(CN=[N+]=[N-])C=C2Cl)Cl)C=C1 | C14H8Cl3N3O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-amino-1(4-[4-chlorobenzoyl]-3,5-dichlorobenzyl)-1,2,3-triazole-4-carboxamide | 231 mg, 41% | NC1=C(N=NN1CC1=CC(=C(C(=C1)Cl)C(C1=CC=C(C=C1)Cl)=O)Cl)C(=O)N | C17H12Cl3N5O2
